US08895313B2
N-(2-Hydroxyethyl)-N-methyl-4-{(E)-2-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]ethenyl}aniline
To a stirred suspension of 4-[N-(2-tert-butyldimethylsilylsilanyloxyethyl)-N-methyl-4-{(E)-2-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]ethenyl}aniline (0.18 g, 0.362 mmol) in a mixture of dry THF (5 ml) and dry DMF (3 ml) at 0-5° C. was added a solution of TBAF in THF (1 M, 800 μl, 0.800 mmol). The reaction mixture was stirred at 0-5° C. for 5 min and then left to rise to room temperature and stirred for a further 50 min. A solution of saturated ammonium chloride (25 ml) was added to the reaction mixture and this was extracted with DCM/MeOH (1:1, 5×30 ml). The combined organics were washed with brine (40 ml), dried (Na2SO4) and the solvent removed under reduced pressure to give a yellow oil that slowly solidified at room temperature. The solid was purified by flash chromatography (10:1 DCM/MeOH) to give the title compound (0.136 g, 98%) as a yellow solid.

reactant | N-(2-tert-butyldimethylsilylsilanyloxyethyl)-N-methyl-4-{(E)-2-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]ethenyl}aniline | 0.362 mmol, 0.18 g | [Si](C)(C)(C(C)(C)C)[SiH2]OCCN(C1=CC=C(C=C1)\C=C\C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1)C | C31H41N3OSi2
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | 0.800 mmol, 1 M, 800 μl | C1CCOC1 | C4H8O
reactant | ammonium chloride | 25 ml | [Cl-].[NH4+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-(2-Hydroxyethyl)-N-methyl-4-{(E)-2-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]ethenyl}aniline | 0.136 g, 98% | OCCN(C1=CC=C(C=C1)\C=C\C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1)C | C25H25N3O
